US08030487B2
Synthesis of 5-Bromo-Pyridine-2-Carboxylic Acid (2-Pyrrolidin-1-yl-Ethyl)-Amide (Intermediate 21)
5-Bromo-pyridine-2-carboxylic acid (0.81 g, 4 mmol) was combined with 2-chloro-4,6-dimethoxy-1,3,5-triazine (CDMT) (0.85 g, 4.8 mmol) and diluted with DCM (20 mL). This was immediately treated with 4-methyl morpholine (0.81 g, 8 mmol) and allowed to stir at ambient temperature for 1 h. 2-Pyrrolidin-1-yl-ethylamine (0.46 g, 4 mmol) was then added in one portion. Stirring was continued overnight. Reaction solvents were removed and residue was taken up in ethyl acetate and washed once with water. Aqueous phase was back extracted once with fresh ethyl acetate. Organic phases were combined, washed once with brine and dried over sodium sulfate. Filtration followed by rotary evaporation provided product as yellow oil which solidified upon standing. Yellowish solids (0.5 g, 42%)

reactant | 5-Bromo-pyridine-2-carboxylic acid | 4 mmol, 0.81 g | BrC=1C=CC(=NC1)C(=O)O | C6H4BrNO2
reactant | 2-chloro-4,6-dimethoxy-1,3,5-triazine | 4.8 mmol, 0.85 g | ClC1=NC(=NC(=N1)OC)OC | C5H6ClN3O2
reactant | 4-methyl morpholine | 8 mmol, 0.81 g | CN1CCOCC1 | C5H11NO
reactant | 2-Pyrrolidin-1-yl-ethylamine | 4 mmol, 0.46 g | N1(CCCC1)CCN | C6H14N2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 5-Bromo-Pyridine-2-Carboxylic Acid (2-Pyrrolidin-1-yl-Ethyl)-Amide | N1(CCCC1)CCNC(=O)C1=NC=C(C=C1)Br | C12H16BrN3O
